US07112698B2
(E)-1-(3-hydroxy4-ethoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one (DMU-187)
A mixture of 3-hydroxy-4-ethoxybenzaldehyde (0.350 g, 2.5 mmol), 3,4,5-trimethoxyacetophenone (0.443 mg, 2.5 mmol) and 50% w/v of aqueous sodium hydroxide (3.37 ml, 0.042 mol) in methanol (5 ml) at room temperature for 18 h. An orange solid was isolated by filtration, dissolved in ethyl acetate which was subsequently dried over MgSO4 and reduced in vacuo. Purification by column chromatography (SiO2, petroleum:ether (40:60 v/v) with an increasing gradient of ethyl acetate) yielded 0.126 g (16.7%) of a yellow solid. 1H-NMR (CDCl3) δ 7.7 (d, 1H), 7.3 (m, 4H), 7.1 (dd, 1H), 6.9 (d, 1H), 5.75 (s, 1H), 4.2 (q, 2H), 3.95 (s×2, 9H), 1.5 (t, 3H). 13C-NMR (CDCl3) δ 190.0, 153.1, 150.0, 146.0, 133.7, 128.4. Mass Spectrum m/e (M+1) 359. Anal. Calcd. for C20H22O6: C, 67.03; H, 6.19. Found C, 66.74; H, 6.33.

reactant | 3-hydroxy-4-ethoxybenzaldehyde | 2.5 mmol, 0.350 g | OC=1C=C(C=O)C=CC1OCC | C9H10O3
reactant | 3,4,5-trimethoxyacetophenone | 2.5 mmol, 0.443 mg | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | sodium hydroxide | 0.042 mol, 3.37 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-1-(3-hydroxy4-ethoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | 0.126 g, 16.7% | OC=1C=C(C=CC1OCC)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C20H22O6
